US05491132
A solution of di-t-butyl dicarbonate (3.57 g) in methylene chloride (20 mi) was added dropwise to a solution of 2-(2-aminoethyl)pyridine (2 g) in methylene chloride (40 ml). The mixture was stirred at ambient temperature for 2 hours and the solvent was evaporated in vacuo. The residue was dissolved in ethyl acetate (60 ml), washed with saturated sodium bicarbonate solution and saturated sodium chloride solution successively, dried over magnesium sulfate, and concentrated under reduced pressure. The residual solid was washed with n-hexane to give 2-[2-(N-t-butoxycarbonylamino)ethyl]pyridine (3.29 g) as yellow crystal. Rf: 0.52 (chloroform:methanol, 10:1, V/V)

reactant | di-t-butyl dicarbonate | 3.57 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 2-(2-aminoethyl)pyridine | 2 g | NCCC1=NC=CC=C1 | C7H10N2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | 2-[2-(N-t-butoxycarbonylamino)ethyl]pyridine | 3.29 g | C(C)(C)(C)OC(=O)NCCC1=NC=CC=C1 | C12H18N2O2
